US04111936
Methyl 3-[2-(2,3-epoxypropoxy)-5-methoxybenzoyl]-propionate was reacted with t-butylamine in a similar manner to that described in Example 2 (i) to give methyl 3-[2-(3-t-butylamino-2-hydroxypropoxy)-5-methoxybenzoyl]-propionate, which recrystallised from ether, had m.p. 70° - 72° C. (Found: C, 62.22; H, 8.22; N, 3.65; C19H29NO6 requires: C, 62.10; H, 7.96; N, 3.81%)

reactant | Methyl 3-[2-(2,3-epoxypropoxy)-5-methoxybenzoyl]-propionate | O1C(COC2=C(C(=O)CCC(=O)OC)C=C(C=C2)OC)C1 | C15H18O6
reactant | t-butylamine | C(C)(C)(C)N | C4H11N
product | methyl 3-[2-(3-t-butylamino-2-hydroxypropoxy)-5-methoxybenzoyl]-propionate | C(C)(C)(C)NCC(COC1=C(C(=O)CCC(=O)OC)C=C(C=C1)OC)O | C19H29NO6
